US09108984B2
Step F: Methyl 6-amino-4-chloro-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate
The reaction mixture was treated with 5 M ammonium chloride in water (4.1 mL, 21 mmol) followed by methyl 4-chloro-3′-fluoro-6-nitro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate (1.9 g, 4.8 mmol) and heated at 60° C. for 16 hours. The reaction mixture was filtered over celite, washed with methanol, and the filtrate was concentrated to a solid. The solid was diluted with ethyl acetate (200 mL) and saturated sodium bicarbonate (100 mL) and stirred for a few minutes. The organic layer was separated, washed with brine, dried with sodium sulfate, filtered, and concentrated to a crude residue. Purification by flash column chromatography using ethyl acetate in hexanes (0%-10%) gave the desired product (1.5 g, 86%). LCMS for C19H20ClFNO2Si (M+H)+: m/z=376.1; Found: 376.1.

reactant | ammonium chloride | 5 M | [Cl-].[NH4+]
reactant | water | 21 mmol, 4.1 mL | O | H2O
reactant | methyl 4-chloro-3′-fluoro-6-nitro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate | 4.8 mmol, 1.9 g | ClC=1C=C(C(=C(C1C#C[Si](C)(C)C)[N+](=O)[O-])C1=CC(=CC=C1)F)C(=O)OC | C19H17ClFNO4Si
product | Methyl 6-amino-4-chloro-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate | 1.5 g, 86% | NC=1C(=C(C=C(C1C1=CC(=CC=C1)F)C(=O)OC)Cl)C#C[Si](C)(C)C | C19H19ClFNO2Si
